US04223013
Conjugation of (2- & 3-)γ-Carboxypropylamitriptyline to Glucose-6-Phosphate Dehydrogenase
To 0.5 ml G-6-PDH (2.5 mg/ml, 777 lV/mg) was added 20 mg G-6-PNa2, 20 mg NADH, 150 μl of carbitol and the NHS ester prepared above in 3 1 μl aliquots followed by a 0.05 μl aliquot over a period of about 3 hrs while maintaining the pH with 0.1 N NaOH between 8.55-8.77, to provide an amitriptyline-enzyme mole ratio of about 58.3. The reaction mixture was then chromatographed over Sephadex G-50 M (80 ml column) employing 0.05 M carbonate buffer (pH9.6) as eluent, collecting 20 drop fractions with fractions 16-21 pooled to provide a total volume of 8 ml. The max rate as determined by a G-6-PDH assay to be described was ΔOD/min 653.3 (% deactivation 82.8) and % inhibitability using saturating amounts of anti(amitriptyline) varied from 85.3 to 90.8 depending on the source of antibody.

reactant | NADH | 20 mg | C=1N=C(C2=C(N1)N(C=N2)[C@H]3[C@@H]([C@@H]([C@H](O3)COP(=O)(O)OP(=O)(O)OC[C@@H]4[C@H]([C@H]([C@@H](O4)N5C=CCC(=C5)C(=O)N)O)O)O)O)N | C21H29N7O14P2
reactant | NaOH | 0.1 N | [OH-].[Na+]
reactant | carbitol | 150 μl | CCOCCOCCO | C6H14O3
product | Glucose-6-Phosphate | C([C@@H]1[C@H]([C@@H]([C@H]([C@@H](O1)O)O)O)O)OP(=O)(O)O | C6H13O9P
